US04828604
Sodium borohydride (0.07 g) was added at room temperature to a methanol solution (100 ml) of N-(5-tert-butyl-1,3,4-thiadiazol-2-yl)-2,3-dimethylmaleinimide (0.95 g), and the mixture was stirred for 3 hours. After the reaction, glacial acetic acid (0.5 ml) was added and the solvent was evaporated under reduced pressure. Water (30 ml) was added to the residue, and potassium carbonate was added to make the mixture alkaline. It was extracted with dichloromethane (50 ml×2). The extractants were dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The resulting crude crystals were washed with a small amount of diethyl ether to give the desired N-(5-tert-butyl-1,3,4-thiadiazol-2-yl)-3,4-dimethyl-2-hydroxy-5-oxo-2,5-dihydropyrrole (0.74 g). mp. 179°-182° C.

reactant | Sodium borohydride | 0.07 g | [BH4-].[Na+]
reactant | methanol | 100 ml | CO | CH4O
reactant | N-(5-tert-butyl-1,3,4-thiadiazol-2-yl)-2,3-dimethylmaleinimide | 0.95 g | C(C)(C)(C)C1=NN=C(S1)N1C(C(=C(C1=O)C)C)=O | C12H15N3O2S
solvent | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
product | N-(5-tert-butyl-1,3,4-thiadiazol-2-yl)-3,4-dimethyl-2-hydroxy-5-oxo-2,5-dihydropyrrole | 0.74 g | C(C)(C)(C)C1=NN=C(S1)N1C(C(=C(C1=O)C)C)O | C12H17N3O2S
